US05466692
2,4-Dimethyl-5-hydroxy-8-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-8H-pyrido[2,3-d]pyrimidin-7-one Sesquihydrate
A mixture of 2,4-dimethyl-5-hydroxy-8-[2'-(1-tert-butyl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-8H-pyrido[2,3-d]pyrimidin-7-one (925 mg, 1.92 mmol), methanesulfonic acid (1.84 g, 19.2 mmol), and toluene (10 mL) was heated under reflux for 28 h. 1N KOH (25 mL) was added and the mixture was extracted twice with EtOAC (discarded). The aqueous phase was acidified to pH 4 with 1N HCl and the precipitate (560 mg) was collected by filtration. Recrystallizationfrom EtOH/water gave 424 mg (52%) of product as an off-white solid, mp 278-280 (dec).

reactant | 2,4-dimethyl-5-hydroxy-8-[2'-(1-tert-butyl-1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-8H-pyrido[2,3-d]pyrimidin-7-one | 1.92 mmol, 925 mg | CC=1N=C(C2=C(N1)N(C(C=C2O)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2C(C)(C)C)C | C27H27N7O2
reactant | methanesulfonic acid | 19.2 mmol, 1.84 g | CS(=O)(=O)O | CH4O3S
reactant | KOH | 1N, 25 mL | [OH-].[K+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 2,4-Dimethyl-5-hydroxy-8-[2'-(1H-tetrazol-5-yl)biphenyl-4-ylmethyl]-8H-pyrido[2,3-d]pyrimidin-7-one Sesquihydrate | 424 mg, 52% | O.CC=1N=C(C2=C(N1)N(C(C=C2O)=O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2)C.O.O.CC=2N=C(C1=C(N2)N(C(C=C1O)=O)CC1=CC=C(C=C1)C1=C(C=CC=C1)C1=NN=NN1)C | InChI=1S/2C23H19N7O2.3H2O/c2*1-13-21-19(31)11-20(32)30(23(21)25-14(2)24-13)12-15-7-9-16(10-8-15)17-5-3-4-6-18(17)22-26-28-29-27-22;;;/h2*3-11,31H,12H2,1-2H3,(H,26,27,28,29);3*1H2
